US07964724B2
Methoxy-1-methyl-ethylamine (15 mmol, 1.15 eq) and diisopropylethylamine (17 mmol, 1.3 eq) were diluted with methylene chloride to give a total volume of 8 mL. The amine solution was added in a portion-wise fashion via a syringe to a solution of chloroacetylchloride (13 mmol) in methylene chloride (10 mL) cooled to approximately −40° C. in a sealed 40 mL vial. The reaction mixture was stirred for 1 h at reduced temperature. The solution was then made acidic with 1N HCl and then diluted with 10 mL of methylene chloride. The vial was agitated and centrifuged. The organic layer was transferred to 40 ml, vials and concentrated in vacuo. The residue (1.69 g, 10.21 mmol) was diluted with 10 mL of dimethylformamide. Piperazine-1-carboxylic acid tert-butyl ester (8.67 mmol, 0.85 eq) and diisopropylethylamine (13.27 mmol, 1.3 eq) were added. The reaction mixture was shaken at 65° C. overnight and concentrated in vacuo. The crude residue was dissolved in 10 mL of dioxane and 10 mL of 4M hydrochloric acid in dioxane. The solution was shaken overnight at room temperature then centrifuged. The supernatant was removed, and the remaining solids were shaken with hexane then centrifuged. The supernatant was removed, and the solids was collected and dried in vacuo to give N-(2-methoxy-1-methylethyl)-2-piperazin-1-yl-acetamide dihydrochloride. LR-MS: 216.4 [(M+H)+]

reactant | Methoxy-1-methyl-ethylamine | 15 mmol, 1.15 eq | CONC(C)C | C4H11NO
reactant | diisopropylethylamine | 17 mmol, 1.3 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroacetylchloride | 13 mmol | ClCC(=O)Cl | C2H2Cl2O
reactant | Piperazine-1-carboxylic acid tert-butyl ester | 8.67 mmol, 0.85 eq | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diisopropylethylamine | 13.27 mmol, 1.3 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(2-methoxy-1-methylethyl)-2-piperazin-1-yl-acetamide dihydrochloride | Cl.Cl.COCC(C)NC(CN1CCNCC1)=O | InChI=1S/C10H21N3O2.2ClH/c1-9(8-15-2)12-10(14)7-13-5-3-11-4-6-13;;/h9,11H,3-8H2,1-2H3,(H,12,14);2*1H
